US08357711B2
3-Chloro-4-({[3-chloro-4-(trifluoromethyl)benzyl]amino}carbonyl)benzenesulfonyl chloride
To a solution of 2-chloro-4-(chlorosulfonyl)benzoyl chloride (J. Org. Chem, 56, 16, 1991, 4974) (300 mg, 0.877 mmol, 1 eq) in DCM (3 ml) was added 3-chloro-4-(trifluoromethyl)benzylamine (175 mg, 0.835 mmol, 0.95 eq) and Et3N (33 mg, 0.32 mmol, 0.37 eq) and the reaction mixture stirred at room temperature for 1 hour. The reaction mixture was diluted with ethyl acetate (10 ml), washed with water (10 ml), dried over sodium sulphate, filtered and evaporated. The crude material was purified by column chromatography eluting with ethyl acetate to yield the title compound (154 mg, 0.34 mmol, 39%).

reactant | 2-chloro-4-(chlorosulfonyl)benzoyl chloride | 0.877 mmol, 300 mg, 1 eq | ClC1=C(C(=O)Cl)C=CC(=C1)S(=O)(=O)Cl | C7H3Cl3O3S
reactant | 3-chloro-4-(trifluoromethyl)benzylamine | 0.835 mmol, 175 mg, 0.95 eq | ClC=1C=C(CN)C=CC1C(F)(F)F | C8H7ClF3N
reactant | Et3N | 0.32 mmol, 33 mg, 0.37 eq | CCN(CC)CC | C6H15N
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-Chloro-4-({[3-chloro-4-(trifluoromethyl)benzyl]amino}carbonyl)benzenesulfonyl chloride | 0.34 mmol, 154 mg, 39% | ClC=1C=C(C=CC1C(=O)NCC1=CC(=C(C=C1)C(F)(F)F)Cl)S(=O)(=O)Cl | C15H9Cl3F3NO3S
